US07807671B2
To 5-(4-benzoylpiperazin-1-yl)-6-phenylpyridazin-3(2H)-one (1.3 g) taken in single necked round bottom flask, phosphorusoxychloride (10 ml) was added and the mixture was heated to 80° C. for 4 hrs. Reaction mixture was cooled to room temperature and concentrated to remove excess phosphorus oxychloride. Residue was slowly poured into ice and neutralized with solid sodium bicarbonate. The mixture was extracted with Ethyl acetate (3×100 ml). The combined organic layer was dried over anhydrous sodium sulphate and concentrated to afford (4-(6-chloro-3-phenylpyridazin-4-yl)piperazin-1-yl)(phenyl)methanone as white solid.

reactant | 5-(4-benzoylpiperazin-1-yl)-6-phenylpyridazin-3(2H)-one | 1.3 g | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C1=CC(NN=C1C1=CC=CC=C1)=O | C21H20N4O2
reactant | phosphorusoxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | (4-(6-chloro-3-phenylpyridazin-4-yl)piperazin-1-yl)(phenyl)methanone | ClC1=CC(=C(N=N1)C1=CC=CC=C1)N1CCN(CC1)C(=O)C1=CC=CC=C1 | C21H19ClN4O
